US04285942
1-(Diethylamino-ethoxyimino)cyclododecane
The sodium salt is formed in the usual way from 2.4 g. (0.1 moles) of sodium hydride and 19.73 g. (0.1 moles) of cyclododecanone oxime in a toluenic solution and then allowed to react with 14.9 g. (0.11 moles) of 1-diethylamino-2-chloroethane. Otherwise the operations are carried out in accordance with Example 1. Yield: 20 g. (67.56%); b.p. 172°-176° C./0.8 torr. Hydrogen fumarate, m.p.: 112°-114° C.

reactant | sodium | [Na] | Na
reactant | sodium hydride | 0.1 moles | [H-].[Na+]
reactant | cyclododecanone oxime | 0.1 moles | C1(CCCCCCCCCCC1)=NO | C12H23NO
reactant | 1-diethylamino-2-chloroethane | 0.11 moles | C(C)N(CCCl)CC | C6H14ClN
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Diethylamino-ethoxyimino)cyclododecane | C(C)N(CC)CCON=C1CCCCCCCCCCC1 | C18H36N2O
